US07846960B2
4′-Hydroxy-2′-methyl-biphenyl-4-carboxylic Acid Methyl Ester
To a solution of 4-Bromo-3-methyl phenol (0.300 g, 1 equiv) in DMF (5 mL) are added 4-methylester phenyl boronic acid (0.58 g, 2 equiv), dppf (0.27 g, 0.3 equiv), palladium acetate (0.036 g, 0.1 equiv), and cesium carbonate (1.04 g, 2 equiv). The reaction mixture is heated to 75° C. for 1 h. The reaction is cooled to room temperature and is diluted with water. The resulting solution is extracted with ethyl acetate. The combined organic layers are combined, washed with brine, dried over sodium sulfate, filtered, and concentrated under reduced pressure. The crude residue is purified via flash chromatography eluting with 3% ethyl acetate in toluene to give the desired product (0.224 g, 58%). ES/MS m/e 241.3 (M−1)

reactant | 4-Bromo-3-methyl phenol | 0.300 g, 1 equiv | BrC1=C(C=C(C=C1)O)C | C7H7BrO
reactant | cesium carbonate | 1.04 g, 2 equiv | C([O-])([O-])=O.[Cs+].[Cs+]
reactant | DMF | 5 mL | CN(C)C=O | C3H7NO
solvent | water | O | H2O
catalyst | dppf | 0.27 g, 0.3 equiv | C1=CC=C(C=C1)P([C-]2C=CC=C2)C3=CC=CC=C3.C1=CC=C(C=C1)P([C-]2C=CC=C2)C3=CC=CC=C3.[Fe+2]
catalyst | palladium acetate | 0.036 g, 0.1 equiv | C(C)(=O)[O-].[Pd+2].C(C)(=O)[O-]
product | 4′-Hydroxy-2′-methyl-biphenyl-4-carboxylic Acid Methyl Ester | 0.224 g, 58% | COC(=O)C1=CC=C(C=C1)C1=C(C=C(C=C1)O)C | C15H14O3
